US06720320B2
(S)-2-(4-(2-acetoxy-3-(4-(3,4-dichlorophenyl)piperidino) propyloxy)benzo(b)furan-2-yl)-5-methyl-1,3,4-oxadiazole hydrochloride
(S)-1-(4-(3,4-Dichlorophenyl)piperidino)-3-(2-(5-methyl-1,3,4-oxadiazol-2-yl)benzo(b)furan-4-yloxy)-2-propanol (1.0 g) was dissolved in pyridine (20 ml) and acetic anhydride (10 ml), and the mixture was left standing at room temperature for 12 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol). The obtained oil was dissolved in ethanol and a solution of hydrogen chloride in ether was added. The precipitated crystals were collected by filtration and dried to give the title compound (0.58 g) as pale-yellow crystals, melting point 163-166° C. (decomposition).

reactant | (S)-1-(4-(3,4-Dichlorophenyl)piperidino)-3-(2-(5-methyl-1,3,4-oxadiazol-2-yl)benzo(b)furan-4-yloxy)-2-propanol | 1.0 g | ClC=1C=C(C=CC1Cl)C1CCN(CC1)C[C@@H](COC1=CC=CC=2OC(=CC21)C=2OC(=NN2)C)O | C25H25Cl2N3O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (S)-2-(4-(2-acetoxy-3-(4-(3,4-dichlorophenyl)piperidino) propyloxy)benzo(b)furan-2-yl)-5-methyl-1,3,4-oxadiazole hydrochloride | 0.58 g | Cl.C(C)(=O)O[C@H](COC1=CC=CC=2OC(=CC21)C=2OC(=NN2)C)CN2CCC(CC2)C2=CC(=C(C=C2)Cl)Cl | InChI=1S/C27H27Cl2N3O5.ClH/c1-16-30-31-27(35-16)26-13-21-24(4-3-5-25(21)37-26)34-15-20(36-17(2)33)14-32-10-8-18(9-11-32)19-6-7-22(28)23(29)12-19;/h3-7,12-13,18,20H,8-11,14-15H2,1-2H3;1H/t20-;/m0./s1
